US06953790B2
Step B. 2-Oxo-1-(1-t-butoxycarbonylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine
Carbonyldiimidazole (0.70 g, 4.33 mmol) was added to a solution of 2-amino-3-[(1-t-butoxycarbonylpiperidin-4-yl)amino]pyridine (1.15 g, 3.93 mmol) in acetonitrile (150 mL) at room temperature. After several hours, an additional amount of carbonyldiimidazole was added (0.81 g), and the reaction stirred overnight. The acetonitrile was evaporated in vacuo, the residue partitioned between water and chloroform, and the organic phase washed with saturated brine and dried over magnesium sulfate. The crude product was purified by chromatography (silica gel, 1.2 to 2.5% methanol in methylene chloride gradient elution), which gave the title compound (1.09 g). 1H NMR (500 MHz, CDCl3) δ 9.39 (br s, 1H), 8.04 (dd, J=1, 5 Hz, 1H), 7.33 (dd, J=1, 8 Hz, 1H), 6.99 (dd, J=5, 8 Hz, 1H), 4.50 (m, 1H), 4.32 (br s, 2H), 2.86 (br s, 2H), 2.20 (m, 2H), 1.86 (d, J=12 Hz, 2H), 1.50 (s, 9H).

reactant | Carbonyldiimidazole | 4.33 mmol, 0.70 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-3-[(1-t-butoxycarbonylpiperidin-4-yl)amino]pyridine | 3.93 mmol, 1.15 g | NC1=NC=CC=C1NC1CCN(CC1)C(=O)OC(C)(C)C | C15H24N4O2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 2-Oxo-1-(1-t-butoxycarbonylpiperidin-4-yl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine | 1.09 g | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N4O3
